US07538123B2
(2) 1-acetyl-7-[2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl]-6-methoxy-1,2,3,4-tetrahydroquinoline
3 ml of acetic anhydride and 3 ml of pyridine were added to 251 mg of 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxy-1,2,3,4-tetrahydroquinoline, and the obtained mixture was then stirred at room temperature for 90 minutes. The reaction solution was concentrated under a reduced pressure. The residue was diluted with ethyl acetate and then washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate) and then by silica gel column chromatography (ethyl acetate-methanol), so as to obtain 162 mg of the subject compound.

reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxy-1,2,3,4-tetrahydroquinoline | 251 mg | O1CCOC12CCN(CC2)CCC2=C(C=C1CCCNC1=C2)OC | C19H28N2O3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetyl-7-[2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl]-6-methoxy-1,2,3,4-tetrahydroquinoline | 162 mg | C(C)(=O)N1CCCC2=CC(=C(C=C12)CCN1CCC2(OCCO2)CC1)OC | C21H30N2O4
